US04346030
A solution of 5.24 g (18.5 mmol) of (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde-1-oxime in 50 ml of acetic acid anhydride is heated to boiling under reflux for 3 hours and subsequently evaporated in vacuo. The residue is taken up in chloroform, the solution is washed once with ca 30 ml of saturated sodium hydrogen carbonate solution and once with ca 30 ml of water, dried over magnesium sulphate and evaporated. After column chromatography and recrystallisation from ethyl acetate, there is obtained (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile of melting point 223°-225° C.

reactant | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde-1-oxime | 18.5 mmol, 5.24 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C=NO)CCC2 | C15H14N4O2
solvent | acetic acid anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C#N)CCC2 | C15H12N4O
